US09212192B2
N-(2-(dimethylamino)ethyl)-3-methoxy-4-nitrobenzamide
To a solution of 3-methoxy-4-nitrobenzoic acid (5.0 g, 25.4 mmol) and N1,N1-dimethylethane-1,2-diamine (2.7 g, 30.5 mmol) in dichloromethane (200 mL) were added 1-hydroxybenzotriazole hydrate (7.8 g, 50.8 mmol), 1-ethyl-(3-dimethyl aminopropyl)carbodiimide hydrochloride (9.7 g, 50.8 mmol) and N,N-diisopropyl ethylamine (13.1 g, 101.6 mmol) and the mixture was stirred at ambient temperature for 16 hours. The mixture was washed with water (50 mL), dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel (200-300 mesh) eluting with 20/1 dichloromethane/methanol to give the title compound. MS: 268 (M+H+).

reactant | 3-methoxy-4-nitrobenzoic acid | 25.4 mmol, 5.0 g | COC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C8H7NO5
reactant | N1,N1-dimethylethane-1,2-diamine | 30.5 mmol, 2.7 g | CN(CCN)C | C4H12N2
reactant | 1-hydroxybenzotriazole hydrate | 50.8 mmol, 7.8 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropyl ethylamine | 101.6 mmol, 13.1 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | N-(2-(dimethylamino)ethyl)-3-methoxy-4-nitrobenzamide | CN(CCNC(C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O)C | C12H17N3O4
